US07229999B2
Step 3: N-((trans)-2-Hydroxy-cyclohexyl)-6-(2-methoxy-ethoxy)-5-(4-trifluoromethyl-phenyl)-nicotinamide
The title compound was synthesised in analogy to the Suzuki reaction procedure described for the preparation of Example 1, from 5-bromo-N-(trans-2-hydroxy-cyclohexyl)-6-(2-methoxy-ethoxy)-nicotinamide and 4-trifluoromethyl-phenylboronic acid (commercially available). MS (m/e): 439.3 (MH+).

reactant | 5-bromo-N-(trans-2-hydroxy-cyclohexyl)-6-(2-methoxy-ethoxy)-nicotinamide | BrC=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)OCCOC | C15H21BrN2O4
reactant | 4-trifluoromethyl-phenylboronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | N-((trans)-2-Hydroxy-cyclohexyl)-6-(2-methoxy-ethoxy)-5-(4-trifluoromethyl-phenyl)-nicotinamide | O[C@H]1[C@@H](CCCC1)NC(C1=CN=C(C(=C1)C1=CC=C(C=C1)C(F)(F)F)OCCOC)=O | C22H25F3N2O4
